US04775692
An excess solution of diazomethane in ether was slowly added to an ice-cooled and stirred solution of p-chlorobenzoic acid (6.2 g, 39.6 mmol) in 50 ml of ether and the mixture was concentrated. The residue was recrystallized from 5 ml of MeOH to give a white crystalline product of methyl p-chlorobenzoate (4.8 g, 28.2 mmol, yield 71%). m.p. 42.0°-43.0° C. (recrystallized from methanol)

reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | p-chlorobenzoic acid | 39.6 mmol, 6.2 g | ClC1=CC=C(C(=O)O)C=C1 | C7H5ClO2
solvent | ether | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | methyl p-chlorobenzoate | 28.2 mmol, 4.8 g, yield 71% | ClC1=CC=C(C(=O)OC)C=C1 | C8H7ClO2
